US08202858B2
4-[1,3]Dioxolan-2-yl-piperidine
4-[1,3]Dioxolan-2-yl-piperidine-1-carboxylic acid benzyl ester from Example E33.3 (5.14 g, 17.7 mmol) was dissolved in methanol (100 ml) and hydrogenated over 10% Pd/C catalyst (551 mg) for 4 h. The mixture was filtered through Celite® filter agent and the filtrate was concentrated in vacuo to yield the title compound (2.84 g, 100%).

reactant | 4-[1,3]Dioxolan-2-yl-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1OCCO1 | C16H21NO4
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 551 mg | [Pd] | Pd
product | 4-[1,3]Dioxolan-2-yl-piperidine | 2.84 g, 100% | O1C(OCC1)C1CCNCC1 | C8H15NO2
